US07642367B2
4-Chloro-5-(1,1-dimethyl-allyl)-2-methoxy-benzaldehyde
To a solution of 1-bromo-4-chloro-5-(1,1-dimethyl-allyl)-2-methoxy-benzene (3.92 g, 0.0135 mol) in dry THF (30 mL) was cooled to −78° C. under argon. n-BuLi (2.5M, 6 mL, 0.0145 mol) was added keeping the temperature below −70° C. The yellow mixture was stirred for another 15 min and quenched with dry DMF (1.2 mL, 0.015 mol). The cooling bath was removed and the mixture was allowed to warm to 25° C. A saturated solution of NaHCO3 (30 mL) was added and then extracted with EtOAc (3×50 mL). The organic phase was dried (Na2SO4) and evaporated to dryness. The crude product was recrystallized from MeOH. Yield: 3.00 g (93%). GCMS: >99%

reactant | 1-bromo-4-chloro-5-(1,1-dimethyl-allyl)-2-methoxy-benzene | 0.0135 mol, 3.92 g | BrC1=C(C=C(C(=C1)C(C=C)(C)C)Cl)OC | C12H14BrClO
reactant | n-BuLi | 0.0145 mol, 2.5M, 6 mL | [Li]CCCC
reactant | DMF | 0.015 mol, 1.2 mL | CN(C)C=O | C3H7NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-Chloro-5-(1,1-dimethyl-allyl)-2-methoxy-benzaldehyde | ClC1=CC(=C(C=O)C=C1C(C=C)(C)C)OC | C13H15ClO2
